US07772285B2
50 g of 2,4-dihydroxybenzoic acid, 269 g of potassium carbonate, 123 mL of dimethyl sulfate, and 500 mL of N,N-dimethylformamide were suspended together, and this suspension was stirred for 6.5 hours at 70 to 80° C. Further, 90 g of potassium carbonate and 61 mL of dimethyl sulfate were added to this suspension, which was stirred for another 4 hours at 110 to 115° C. This reaction mixture was added to a mixture of ethyl acetate and water, and adjusted to pH 2 with 6M hydrochloric acid, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=1:2] to yield 54 g of methyl 2,4-dimethoxybenzoate as yellow oil.

reactant | 2,4-dihydroxybenzoic acid | 50 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | potassium carbonate | 269 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 123 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 90 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 61 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | methyl 2,4-dimethoxybenzoate | 54 g | COC1=C(C(=O)OC)C=CC(=C1)OC | C10H12O4
